US03962224
Phenyllithium (12.5 ml. of a 2.0M solution in 7:3 benzene-ethyl ether) is added to a dry-ice cooled, stirring solution of diethyl N-benzylidene-aminomethylphosphonate (6.073 g., 23.8 mMol) in dry tetrahydrofuran (130 ml.). After having been stirred for 30 minutes at -78°C. under a N2 atmosphere, the solution is treated dropwise over 25 minutes with a solution of trichloroethyl chloroformate (5.04 g., 23.8 mMol) in dry tetrahydrofuran (25 ml.). The resulting solution is stirred an additional 2 hours at -78°C., then allowed to warm to 3°C. over a period of 30 minutes. Evaporation of the solvent in vacuo yields a yellow foam which is partitioned between ethyl ether (150 ml.) and 0.5M pH3 phosphate buffer (50 ml.). The aqueous phase is separated and extracted with two additional portions of ether (25 ml.). The combined ethereal solution is washed with saturated brine (100 ml.), dried over MgSO4, and evaporated under reduced pressure to give a cloudy, yellow oil. Chromatography of the crude product on silica gel (200 g.) using 9:1 ethyl acetate-acetone as eluting solvent gives trichloroethyl N-benzylidene-α-amino-diethylphosphonoacetate as a pale yellow oil.

reactant | Phenyllithium | C1(=CC=CC=C1)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | diethyl N-benzylidene-aminomethylphosphonate | 23.8 mMol, 6.073 g | C(C1=CC=CC=C1)=NCP(OCC)(OCC)=O | C12H18NO3P
reactant | trichloroethyl chloroformate | 23.8 mMol, 5.04 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate acetone | C(C)(=O)OCC.CC(=O)C
solvent | benzene ethyl ether | C1=CC=CC=C1.C(C)OCC
product | trichloroethyl N-benzylidene-α-amino-diethylphosphonoacetate | C(C1=CC=CC=C1)=NC(C(=O)OCC(Cl)(Cl)Cl)P(=O)(OCC)OCC | C15H19Cl3NO5P
